US07450980B2
Preparation of Indicator Layer for Measuring Glucose, 3
7 g of detran was dissolved in 175 mL of distilled water under stirring at 50° C., then 5 g of fullerene was added to the solution, and the mixture was subjected to ultrasonic treatment until fullerene was dispersed uniformly. Then, 3.5 mL of 50% aqueous sodium hydroxide solution and 6.5 g of ethylene glycol diglycidyl ether were added to the mixture, followed by stirring at 45° C. for 30 min, to obtain a precursor for forming an optical separation layer. Further, the solution was added to 230 mL of distilled water, and the mixed solution was placed in a sprayer.

reactant | sodium hydroxide | 3.5 mL | [OH-].[Na+]
reactant | ethylene glycol diglycidyl ether | 6.5 g | C(C1CO1)OCCOCC1CO1 | C8H14O4
solvent | water | 175 mL | O | H2O
solvent | water | 230 mL | O | H2O
product | Glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
